US07335711B2
2,2-[(Cyclopentadienyl)-[(2,7-di-phenyl-3,6-di-tert-butylfluorenyl)]-propane
Butyllithium (1.5 ml, 1.6M in hexane, 2.40 mmol) was added to 2,7-diphenyl-3,6-di-t-butyl-fluorene (0.95 g, 2.20 mmol) in THF (20 ml) at −78° C. The reaction mixture was allowed to warm to room temperature and stirred for 2.5 hours. The solvent was removed under vacuum. Ether (5 ml) was added and removed under vacuum. Ether (25 ml) was added and 6,6′-dimethylfulvene (0.23 g, 2.43 mmol) in ether (5 ml) was added to the reaction mixture at 0° C. The reaction was stirred at room temperature for 5 days. The reaction mixture was quenched with water, extracted with ether, dried over MgSO4, and evaporated under vacuum to afford the residue which was purified by column chromatography (silica gel, hexane/CH2Cl2=5/1) and crystallized from hot hexane. The yield was 0.40 g, 34%. 1H NMR (CDCl3): δ 7.91 and 7.30 (each s, 2H, 1,8- and 4,5-H (Flu), 7.35 (m, 10H, Ph), 6.76, 6.40 (m, 3H, Cp), 4.04 and 4.02 (s, 2H, H9), 3.00 and 2.78 (br s, 2H, CH2 Cp), 1.31 (s, 18H, t-Bu), 1.11 and 1.09 (s, 6H, Me). 1H NMR (CD2Cl2): δ 7.91 and 7.29 (each s, 2H, 1,8- and 4,5-H (Flu), 7.2-7.4 (m, 10H, Ph), 6.8-6.7, 6.40 (m, 3H, Cp), 4.02 (brs, 2H, H9), 3.00 and 2.78 (br s, 2H, CH2 Cp), 1.28 (s, 18H, t-Bu), 1.07 and 1.04 (s, 6H, Me). HPLC: 10.38 and 10.65 min.

reactant | Butyllithium | 2.40 mmol, 1.6M, 1.5 ml | C(CCC)[Li]
reactant | 2,7-diphenyl-3,6-di-t-butyl-fluorene | 2.20 mmol, 0.95 g | C1(=CC=CC=C1)C1=CC=2CC3=CC(=C(C=C3C2C=C1C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C33H34
reactant | 6,6′-dimethylfulvene | 2.43 mmol, 0.23 g | CC(=C1C=CC=C1)C | C8H10
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ether | 5 ml | CCOCC | C4H10O
product | (Cyclopentadienyl)-[(2,7-di-phenyl-3,6-di-tert-butylfluorenyl)]-propane | C1(C=CC=C1)C(CC)C1=C(C(=CC=2C3=CC(=C(C=C3CC12)C1=CC=CC=C1)C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C41H44
